US07105707B2
The procedure was identical to Example 2, with the exception that 1-octyne (0.590 ml; 0.441 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 2-naphthonitrile (0.306 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 22 h at 65° C. showed the presence of 1.98 mmol (99% yield) of 2-(1-octynyl)naphthalene and no remaining 2-naphthonitrile in the reaction mixture.

reactant | 1-octyne | 4.00 mmol, 0.590 ml, 0.441 g | C#CCCCCCC | C8H14
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-naphthonitrile | 2.00 mmol, 0.306 g | C1=C(C=CC2=CC=CC=C12)C#N | C11H7N
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 2-(1-octynyl)naphthalene | 1.98 mmol, 99% yield | C(#CCCCCCC)C1=CC2=CC=CC=C2C=C1 | C18H20
